US09402833B2
Int-76: (R)-ethyl 5-(2-(5-fluoro-2-hydroxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate
To a stirred solution of (R)-ethyl 5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (synthesized similar to that of Int-84 using intermediate 41) (1.2 g, 3.13 mmol) in 25 mL of DCM, 1.0M Borontribromide (15.6 ml, 39.2 g, 15.65 mmol) was added at −70° C. and stirred at −70° C. to room temperature during 16 h. Reaction mass was quenched with 5 mL of ice cooled water and stirred for 15 min. The reaction mixture was diluted with DCM (50 mL) and the organic layer was washed with water followed by brine. The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford of the title compound (Int-76) as off white solid. MS (ESI): m/z 370.3 (M+H).

reactant | (R)-ethyl 5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)OCC)OC | C21H22FN3O3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (R)-ethyl 5-(2-(5-fluoro-2-hydroxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)OCC)O | C20H20FN3O3
